US07569561B2
2-(4-(4-methyl-piperazin-1-yl)-phenylamino)-4-((S)-4-oxo-2,3,10,10a-tetrahydro-1H,4H-9-oxa-3a-aza-benzo[f]azulen-5-ylamino)-5-trifluoromethyl-pyrimidine
50 mg (0.077 mmol) 2-(4-piperazin-1-yl-phenylamino)-4-((S)-4-oxo-2,3,10,10a-tetrahydro-1H.4H-9-oxa-3a-aza-benzo[f]azulen-5-ylamino)-5-trifluoromethyl-pyrimidine are dissolved in 0.5 mL dimethylformamide and combined with 12 μL (0.154 mmol) formaldehyde and 2 μL (0.039 mmol) acetic acid. 86 mg (0.385 mmol) of sodium triacetoxyborohydride are metered into this mixture and it is stirred for 16 h at ambient temperature. Then the solvent is eliminated in vacuo. The crude product is purified by column chromatography. The carrier material used is C18-RP-silica gel and a gradient is run through which at the starting point consists of 95% water and 5% acetonitrile and at the end point consists of 5% water and 95% acetonitrile. 0.2% Formic acid is added to the two eluants. The suitable fractions are combined with 1 N aqueous hydrochloric acid and freeze-dried.

reactant | 2-(4-piperazin-1-yl-phenylamino)-4-((S)-4-oxo-2,3,10,10a-tetrahydro-1H.4H-9-oxa-3a-aza-benzo[f]azulen-5-ylamino)-5-trifluoromethyl-pyrimidine | 0.077 mmol, 50 mg | N1(CCNCC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=CC2=C1C(N1CCC[C@H]1CO2)=O)C(F)(F)F | C27H28F3N7O2
reactant | formaldehyde | 0.154 mmol, 12 μL | C=O | CH2O
reactant | acetic acid | 0.039 mmol, 2 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.385 mmol, 86 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 2-(4-(4-methyl-piperazin-1-yl)-phenylamino)-4-((S)-4-oxo-2,3,10,10a-tetrahydro-1H,4H-9-oxa-3a-aza-benzo[f]azulen-5-ylamino)-5-trifluoromethyl-pyrimidine | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=CC2=C1C(N1CCC[C@H]1CO2)=O)C(F)(F)F | C28H30F3N7O2
